US04476307
1-Phenyl-3-[1-(1-imidazolyl)methylene]-2(1H,3H)-indolone
To 1-phenyl-3-(hydroxymethylene)-2(1H,3H)-indolone (1.0 g, 4.2 mmoles) suspended in 25 ml benzene was added carbonyldiimidazole (0.75 g, 4.6 mmoles). The mixture was stirred 16 hours at room temperature and title product recovered by filtration, 0.39 g, m.p. 158°-161°.

reactant | 1-phenyl-3-(hydroxymethylene)-2(1H,3H)-indolone | 4.2 mmoles, 1.0 g | C1(=CC=CC=C1)N1C(C(C2=CC=CC=C12)=CO)=O | C15H11NO2
reactant | carbonyldiimidazole | 4.6 mmoles, 0.75 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 1-Phenyl-3-[1-(1-imidazolyl)methylene]-2(1H,3H)-indolone | C1(=CC=CC=C1)N1C(C(C2=CC=CC=C12)=CN1C=NC=C1)=O | C18H13N3O
